US06248739B1
Ethyl 8-fluoro-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylate
Ethyl 8-fluoro4-hydroxy-6-iodo-3-quinolinecarboxylate (18.1 g) prepared as an intermediate in Preparation No. 1 is dissolved in DMF (430 mL), and K2CO3 (36.1 g, 261 mmol) and methyl iodide (3.25 mL, 52.3 mmol) are added. The reaction mixture is heated to 95° C. for 6 h, then allowed to stir at room temperature overnight. The mixture is split into two parts. The first part is poured into H2O and extracted with five 100-mL portions of CH2Cl2. The combined organic layers are washed with five 200-mL H2O, dried over MgSO4, filtered, and concentrated in vacuo. The work-up is then repeated on the second portion of the reaction mixture to give a total of 15.8 g of the title compound.

reactant | Ethyl 8-fluoro4-hydroxy-6-iodo-3-quinolinecarboxylate | 18.1 g | FC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)I | C12H9FINO3
reactant | K2CO3 | 261 mmol, 36.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 52.3 mmol, 3.25 mL | CI | CH3I
solvent | DMF | 430 mL | CN(C)C=O | C3H7NO
product | Ethyl 8-fluoro-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 15.8 g | FC=1C=C(C=C2C(C(=CN(C12)C)C(=O)OCC)=O)I | C13H11FINO3
